US06495546B1
A solution of N-[(2S)-2-hydroxy-3-phenoxypropyl]-N-(3-methylcarbamoyl-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-tert-butoxycarbonylamine (108 mg) in ethyl acetate (1 ml) was treated with 4N hydrogen chloride in ethyl acetate solution (0.58 ml) overnight. The mixture was evaporated in vacuo and triturated in diisopropyl ether, and the precipitated powder was collected by filtration to afford 6-[(2S)-2-hydroxy-3-phenoxypropyl]amino-3-methylcarbamoyl-6,7,8,9-tetrahydro-5H-benzocycloheptene hydrochloride (86 mg).

reactant | N-[(2S)-2-hydroxy-3-phenoxypropyl]-N-(3-methylcarbamoyl-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)-tert-butoxycarbonylamine | 108 mg | O[C@@H](CN(C1CC2=C(CCC1)C=CC(=C2)C(NC)=O)C(=O)OC(C)(C)C)COC2=CC=CC=C2 | C27H36N2O5
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.58 ml | C(C)(=O)OCC | C4H8O2
product | 6-[(2S)-2-hydroxy-3-phenoxypropyl]amino-3-methylcarbamoyl-6,7,8,9-tetrahydro-5H-benzocycloheptene hydrochloride | 86 mg | Cl.O[C@@H](CNC1CC2=C(CCC1)C=CC(=C2)C(NC)=O)COC2=CC=CC=C2 | InChI=1S/C22H28N2O3.ClH/c1-23-22(26)17-11-10-16-6-5-7-19(13-18(16)12-17)24-14-20(25)15-27-21-8-3-2-4-9-21;/h2-4,8-12,19-20,24-25H,5-7,13-15H2,1H3,(H,23,26);1H/t19?,20-;/m0./s1
